* D:\Clones\LINFO1140\T4 - Circuits RC\Circuit.asc
S1 N004 N003 N001 0 Interupt
V1 N001 0 PULSE(0 1 2n 1p 1p 4n)
R1 N003 N002 2k
V2 N002 0 12
R2 N004 0 2k
I1 0 N004 2m
R3 C N004 4k
R4 C 0 12k
C1 C 0 20f
.model Interupt sw ron=0.01
.tran 4n
.backanno
.end
