* C:\Users\floew\OneDrive\Documents\Github\LINFO1140\T8 - Circuits séquentiels\Circuit\Circuit.asc
XX1 A B C D P001 P002 P003 P004 CLK d_ff4
V1 A 0 PULSE(0 1 16n 1p 1p 16n 32n)
V2 B 0 PULSE(0 1 8n 1p 1p 8n 16n)
V3 C 0 PULSE(0 1 4n 1p 1p 4n 8n)
V4 D 0 PULSE(0 1 2n 1p 1p 2n 4n)
XX2 P004 P003 P002 P001 P005 fonction
XX3 P005 OUT CLK d_ff
V5 CLK 0 PULSE(0 1 1n 1p 1p 1n 2n)
C1 OUT 0 50f

* block symbol definitions
.subckt d_ff4 A B C D DCLK CCLK BCLK ACLK CLK
XX1 A ACLK CLK d_ff
XX2 B BCLK CLK d_ff
XX3 C CCLK CLK d_ff
XX4 D DCLK CLK d_ff
.ends d_ff4

.subckt fonction A B C D OUT
XX1 A D N005 N001 and3
XX2 N002 N004 N005 OUT or3
XX3 A N006 not
XX4 B N001 not
XX5 C N003 not
XX6 D N007 not
XX7 N001 N003 N002 and2
XX8 B C N004 and2
.ends fonction

.subckt d_ff D Q clock
M1 N004 N002 0 0 N_50n l=50n w=500n
VDD VDD 0 1
M2 VDD N002 N004 VDD P_50n l=50n w=1u
M5 N003 N004 0 0 N_50n l=50n w=500n
M6 VDD N004 N003 VDD P_50n l=50n w=1u
M7 D clock_b N002 0 N_50n l=50n w=500n
M3 N002 clock D VDD P_50n l=50n w=1u
M4 N002 clock N003 0 N_50n l=50n w=500n
M8 N003 clock_b N002 VDD P_50n l=50n w=1u
M9 Q N001 0 0 N_50n l=50n w=500n
M10 VDD N001 Q VDD P_50n l=50n w=1u
M11 Q_bar Q 0 0 N_50n l=50n w=500n
M12 VDD Q Q_bar VDD P_50n l=50n w=1u
M13 N004 clock N001 0 N_50n l=50n w=500n
M14 N001 clock_b N004 VDD P_50n l=50n w=1u
M15 N001 clock_b Q_bar 0 N_50n l=50n w=500n
M16 Q_bar clock N001 VDD P_50n l=50n w=1u
XX2 clock clock_b not
.include cmosedu_models.txt
.ends d_ff

.subckt and3 In1 In3 Out In2
XX2 P001 Out not
XX1 In1 In3 P001 In2 nand3
.ends and3

.subckt or3 In1 In2 In3 Out
XX2 N001 Out not
XX1 In1 In2 In3 N001 nor3
.ends or3

.subckt not In Out
M1 Out In 0 0 N_50n l=50n w=500n
M2 VDD In Out VDD P_50n l=50n w=1u
VDD VDD 0 1
.include cmosedu_models.txt
.ends not

.subckt and2 In1 In2 Out
XX1 In1 In2 P001 nand2
XX2 P001 Out not
.ends and2

.subckt nand3 In1 In3 Out In2
VDD VDD 0 1
M3 VDD In2 Out VDD P_50n l=50n w=1u
M1 P001 In2 0 0 N_50n l=50n w=1.5u
M2 P002 In1 P001 0 N_50n l=50n w=1.5u
M4 VDD In1 Out VDD P_50n l=50n w=1u
C1 Out 0 50f
M5 VDD In3 Out VDD P_50n l=50n w=1u
M6 Out In3 P002 0 N_50n l=50n w=1.5u
.include cmosedu_models.txt
.ends nand3

.subckt nor3 In1 In2 In3 Out
VDD VDD 0 1
M3 VDD In3 N001 VDD P_50n l=50n w=3u
M1 Out In3 0 0 N_50n l=50n w=500n
M2 Out In2 0 0 N_50n l=50n w=500n
M4 N001 In2 N002 VDD P_50n l=50n w=3u
C1 Out 0 50f
M5 N002 In1 Out VDD P_50n l=50n w=3u
M6 Out In1 0 0 N_50n l=50n w=500n
.include cmosedu_models.txt
.ends nor3

.subckt nand2 In1 In2 Out
VDD VDD 0 1
M3 VDD In2 Out VDD P_50n l=50n w=1u
M1 P001 In2 0 0 N_50n l=50n w=1u
M2 Out In1 P001 0 N_50n l=50n w=1u
M4 VDD In1 Out VDD P_50n l=50n w=1u
C1 Out 0 50f
.include cmosedu_models.txt
.ends nand2

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\floew\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmosedu_models.txt
.tran 34n
.backanno
.end
